US04061761
4-[4-Chloro-3-(3-picolylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
8.8 g of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were reacted with 3.0 g of 3-picolyl amine and 5 g of triethyl amine according to Example 76, the solvent was distilled off under reduced pressure and the residue was taken up in 70 ml of water. Three extractions followed with 60 ml of ethyl acetate, the organic phase was dried over sodium sulfate and the solvent was evaporated under reduced pressure. The residue crystallized under diisopropyl ether. Melting point: 152° - 153° C.

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 8.8 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(=O)(=O)Cl
reactant | 3-picolyl amine | 3.0 g | N1=CC(=CC=C1)CN | C6H8N2
solvent | triethyl amine | 5 g | C(C)N(CC)CC | C6H15N
product | 4-[4-Chloro-3-(3-picolylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NCC=1C=NC=CC1)(=O)=O | C17H19ClN4O3S2
